US05512564
a) 3-(m-methylbenzoyl)-pyrazine-2-carboxylic acid
The Grignard reagent from 8.5 g (50 mmol) 3-bromotoluene and 1.2 g magnesium in 50 ml ether was added dropwise at 0°-10° C. to a solution of 7.5 g (50 mmol) pyrazine-2,3-dicarboxylic acid anhydride in 100 ml THF and after completed addition, the solution that formed was stirred for 4 hours at room temperature. 500 ml cold, saturated NH4Cl solution was then added, it was extracted with ethyl acetate and the organic phase was dried, concentrated by evaporation and purified as in example 1a and 2a. Yield 4 g (32% of theoretical yield).

reactant | 3-bromotoluene | 50 mmol, 8.5 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | pyrazine-2,3-dicarboxylic acid anhydride | 50 mmol, 7.5 g | N1=C2C(=NC=C1)C(=O)OC2=O | C6H2N2O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(m-methylbenzoyl)-pyrazine-2-carboxylic acid | CC=1C=C(C(=O)C=2C(=NC=CN2)C(=O)O)C=CC1 | C13H10N2O3
